US07816401B2
(1-1)Synthesis of methyl-(2E)-3-methyl-5-[(1-phenyl-1-H-tetrazol-5-yl)thio]pent-2-enoate (Q1a)
About 30% hydrogen peroxide solution (47.4 ml, 418.0 mmol) solution of hexaammonium heptamolybdate tetrahydrate (542 mg, 0.44 mmol) was added to an ethanol (200 ml) solution of ethyl-(2E)-3-methyl-5-[(1-phenyl-1-H-tetrazol-5-yl)thio]pent-2-enoate (13.31 g, 41.80 mmol) at room temperature. After stirred for at the same temperature for 12 hours, the reaction solution was diluted with ethyl acetate and washed with distilled water and brine. After the organic layer was dried over anhydrous sodium sulfate and the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60, 230-400 mesh; hexane:ethyl acetate=4:1) to obtain the title compound (12.65 g) as a white solid.

reactant | hydrogen peroxide | 418.0 mmol, 47.4 ml | OO | H2O2
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | ethyl-(2E)-3-methyl-5-[(1-phenyl-1-H-tetrazol-5-yl)thio]pent-2-enoate | 41.80 mmol, 13.31 g | C(C)OC(\C=C(\CCSC1=NN=NN1C1=CC=CC=C1)/C)=O | C15H18N4O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl-(2E)-3-methyl-5-[(1-phenyl-1-H-tetrazol-5-yl)thio]pent-2-enoate | 12.65 g | COC(\C=C(\CCSC1=NN=NN1C1=CC=CC=C1)/C)=O | C14H16N4O2S
